US05223529
Working in a manner similar to that described in Example 9, but starting with 2-naphthalenecarboxylic acid (0.95 g), oxalyl dichloride (0.7 g), 2-amino-N,N-diphenylacetamide (1.2 g) and triethylamine (0.8 g), and after recrystallization in acetonitrile, N-(diphenylcarbamoylmethyl)-2-naphthalenecarboxamide (1.2 g), m.p. 205° C., is obtained.

reactant | 2-naphthalenecarboxylic acid | 0.95 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | oxalyl dichloride | 0.7 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-N,N-diphenylacetamide | 1.2 g | NCC(=O)N(C1=CC=CC=C1)C1=CC=CC=C1 | C14H14N2O
solvent | triethylamine | 0.8 g | C(C)N(CC)CC | C6H15N
product | N-(diphenylcarbamoylmethyl)-2-naphthalenecarboxamide | 1.2 g | C1(=CC=CC=C1)N(C(=O)CNC(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C25H20N2O2
